US04783462
4-Chloro-5-[3-(2-n-propyl-4-hydroxyphenoxy)propylamino]-2-ethyl-3(2H)pyridazinone (Compound No. 108)
A solution obtained by dissolving 0.35 g of 4-chloro-5-[3-(2-n-propyl-4-methoxyphenoxy)propylamino]-2-ethyl-3(2H)pyridazinone (Compound No. 82) in 10 ml of methylene chloride, was dropwise added to a mixture comprising 0.36 g of aluminum chloride, 0.44 g of di-n-propylsulfide and 15 ml of methylene chloride, under stirring and cooling with ice. After the completion of the dropwise addition, the mixture was stirred at 0° C. for 2 hours, and then left to stand overnight in a refrigerator. Ice pieces were gradually added to the mixture to decompose excess aluminum chloride, and the mixture was extracted with chloroform. The extract was washed with water and dried over sodium sulfate. Then, the solvent was distilled off, and the residue thereby obtained, was crystallized from ethyl ether-n-hexane to obtain 0.26 g of the above identified compound as colorless crystals having a melting point of from 112° to 112.5° C.

reactant | 4-chloro-5-[3-(2-n-propyl-4-methoxyphenoxy)propylamino]-2-ethyl-3(2H)pyridazinone | 0.35 g | ClC=1C(N(N=CC1NCCCOC1=C(C=C(C=C1)OC)CCC)CC)=O | C19H26ClN3O3
reactant | aluminum chloride | 0.36 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | di-n-propylsulfide | 0.44 g | C(CC)SCCC | C6H14S
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 4-Chloro-5-[3-(2-n-propyl-4-hydroxyphenoxy)propylamino]-2-ethyl-3(2H)pyridazinone | ClC=1C(N(N=CC1NCCCOC1=C(C=C(C=C1)O)CCC)CC)=O | C18H24ClN3O3
